US09102622B2
N-(3-phenylpropyl)-N′-(2-pyridinylmethyl)-urea (59.1)
To a solution of 3-phenylpropyl isocyanate (1.8 mmol) in anhydrous THF (10 mL) at 0° C. under an argon atmosphere was added 2-aminomethyl-pyridine (1.8 mmol). The reaction mixture was stirred at 0° C. for 10 min, the solvent was evaporated under reduced pressure, and the resultant solid was recrystallized from CH2Cl2/Et2O to give pure 59.1 in 92% yield. White solid. m p 89-90° C. When anhydrous benzene was used as solvent the product was directly crystallized out and isolated by filtration (93% yield).

reactant | 3-phenylpropyl isocyanate | 1.8 mmol | C1(=CC=CC=C1)CCCN=C=O | C10H11NO
reactant | 2-aminomethyl-pyridine | 1.8 mmol | NCC1=NC=CC=C1 | C6H8N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(3-phenylpropyl)-N′-(2-pyridinylmethyl)-urea | 92% yield | C1(=CC=CC=C1)CCCNC(=O)NCC1=NC=CC=C1 | C16H19N3O
